US08486979B2
4-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzonitrile
The title compound was prepared according to the procedure of Example 1 using N′-hydroxynicotinimidamide (Aldrich) and 4-cyanobenzoyl chloride (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.65 (ddd, J=8.0, 4.9, 1.0 Hz, 1 H), 8.02 (d, J=8.8 Hz, 2 H), 8.42 (d, J=8.8 Hz, 2 H), 8.57 (dt, J=8.1, 1.9 Hz, 1 H), 8.75 (dd, J=4.7, 1.7 Hz, 1 H), 9.31 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 249 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | NH3 | N | H3N
product | 4-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzonitrile | N1=CC(=CC=C1)C1=NOC(=N1)C1=CC=C(C#N)C=C1 | C14H8N4O
